US07115611B2
To an ice-cooled solution of 10 g (70.35 mmol) 3-cyclopropyl-3-oxo-propionic acid methyl ester and 6.69 g (70.35 mmol) anhydrous magnesium chloride was dropped within 10 min 11.3 2ml (140 7 mmol) pyridine. 15 min later, 12.54 g (77.38 mmol) methoxyacetic anhydride was added and the reaction mixture was then stirred at RT over night. The reaction mixture was concentrated under reduced pressure and then taken up in ether and washed with water, 1N HCl and again with water. The ether-phase was concentrated under reduced pressure providing 13.17 g crude 2-cyclopropanecarbonyl-4-methoxy-3-oxo-butyric acid methyl ester.

reactant | 3-cyclopropyl-3-oxo-propionic acid methyl ester | 70.35 mmol, 10 g | COC(CC(=O)C1CC1)=O | C7H10O3
reactant | magnesium chloride | 70.35 mmol, 6.69 g | [Cl-].[Mg+2].[Cl-]
reactant | methoxyacetic anhydride | 77.38 mmol, 12.54 g | COCC(=O)OC(COC)=O | C6H10O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-cyclopropanecarbonyl-4-methoxy-3-oxo-butyric acid methyl ester | 13.17 g | COC(C(C(COC)=O)C(=O)C1CC1)=O | C10H14O5
